US07795262B2
Step 4. Preparation of 1-[4-(5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-phenyl]-ethanone
To a stirred solution of 2-(4-trifluoromethanesulfonyloxy-phenyl)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester (918 mg, 2.0 mmol) in dry DMF (10 ml) is added n-butylvinyl ether (1.02 g, 10 mmol, 5.0 eq.), TEA (404 mg, 4.0 mmol, 2.0 eq.), 1,3-bis(diphenylphosphino)propane (29 mg, 0.055 mmol, 0.0276 eq.) and palladium acetate (11.3 mg, 0.05 mmol, 0.025 eq.) under nitrogen. The resulting mixture is stirred at 80° C. for 7 hr. Water (30 ml) is added to quench the reaction, and the mixture is extracted with EtOAc (30 ml×3). The combined organic phase is washed with water and brine, dried over sodium sulfate, and concentrated. The crude product is purified by silica gel flash chromatography (hexane/EtOAc 5:1) to give a mixture of the vinyl ether and the ketone product, which is dissolved in EtOAc (30 ml), and then treated with concentrated hydrochloric acid (3.0 ml). The mixture is stirred at rt for 2 hr, and then basified with saturated sodium carbonate solution. The organic phase is collected, and the aqueous phase is extracted with DCM twice. The combined organic phase is dried over sodium sulfate, and concentrated to give the title compound. MS (+VE) m/z 254.1 (M++1).

reactant | 2-(4-trifluoromethanesulfonyloxy-phenyl)-7,8-dihydro-5H-pyrido[4,3-d]pyrimidine-6-carboxylic acid tert-butyl ester | 2.0 mmol, 918 mg | C(C)(C)(C)OC(=O)N1CC2=C(N=C(N=C2)C2=CC=C(C=C2)OS(=O)(=O)C(F)(F)F)CC1 | C19H20F3N3O5S
reactant | n-butylvinyl ether | 10 mmol, 1.02 g, 5.0 eq. | C(CCC)OC=C | C6H12O
reactant | 1,3-bis(diphenylphosphino)propane | 0.055 mmol, 29 mg, 0.0276 eq. | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | vinyl ether | C(=C)OC=C | C4H6O
reactant | hydrochloric acid | 3.0 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
catalyst | palladium acetate | 0.05 mmol, 11.3 mg, 0.025 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | 30 ml | O | H2O
product | 1-[4-(5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-2-yl)-phenyl]-ethanone | N1=C(N=CC2=C1CCNC2)C2=CC=C(C=C2)C(C)=O | C15H15N3O
